US09102621B2
Methyl 5-chloro-2-fluoro-4-methyl benzoate
To a solution of 1-bromo-5-chloro-2-fluoro-4-methylbenzene (10 g, 44.7 mmol) in 200 mL of methanol were added 1,1′-binaphthalene-2,2′-diylbis(diphenylphosphine)-dichloropalladium (1:1) (358 mg, 0.447 mmol) and N,N-diethylethanamine (8.11 mL, 58.2 mmol). The resulting reaction mixture was placed in a bomb, pressurised to 80 psi of carbon monoxide and heated at 80° C. for 18 hours. The reaction mixture was concentrated in vacuo to yield a semi-solid which was dissolved in EtOAc (300 mL) and washed with water (200 mL). The organic layer was separated, dried over magnesium sulfate, filtered and evaporated in vacuo. The resulting crude product was purified by silica gel chromatography eluting with 0 to 20% EtOAc in heptane to afford the title compound as a white crystalline solid (8.47 g, 93%).

reactant | 1-bromo-5-chloro-2-fluoro-4-methylbenzene | 44.7 mmol, 10 g | BrC1=C(C=C(C(=C1)Cl)C)F | C7H5BrClF
reactant | N,N-diethylethanamine | 58.2 mmol, 8.11 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 200 mL | CO | CH4O
product | Methyl 5-chloro-2-fluoro-4-methyl benzoate | 8.47 g, 93% | CC1=C(C=C(C(=C1)F)C(=O)OC)Cl | C9H8ClFO2
